US08912227B1
3-[4-{[1-(4-Fluorophenyl)-3-(trifluoromethyl)-1H-pyrrol-2-yl]methoxy}-2-(trifluoromethyl)phenyl]propanoic acid
4-Fluoroaniline was reacted with ethyl bromoacetate according to the procedure of Example 73, Step A. The resulting product was then reacted according to the procedures of Example 73, Steps B and C and Example 1, Step D, in sequence. The resulting product was then reacted with ethyl 3-(4-hydroxy-2-trifluoromethylphenyl)propanoate according to the procedures of Example 1, Step E and Step F, in sequence, to yield the title compound.

reactant | 4-Fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | ethyl 3-(4-hydroxy-2-trifluoromethylphenyl)propanoate | OC1=CC(=C(C=C1)CCC(=O)OCC)C(F)(F)F | C12H13F3O3
product | 3-[4-{[1-(4-Fluorophenyl)-3-(trifluoromethyl)-1H-pyrrol-2-yl]methoxy}-2-(trifluoromethyl)phenyl]propanoic acid | FC1=CC=C(C=C1)N1C(=C(C=C1)C(F)(F)F)COC1=CC(=C(C=C1)CCC(=O)O)C(F)(F)F | C22H16F7NO3
